US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-[4-(4-methylpiperazin-1-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
To a solution of 5-(2-benzyl-2H-indazol-6-yl)-7-(4-piperazin-1-ylphenyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (89 mg, 0.18 mmol) in dichloromethane (3 mL) was added formaldehyde (37% in water) (80 μL, 1.06 mmol) and sodium triacetoxyborohydride (113 mg, 0.53 mmol). The reaction was stirred (rt) for 17 h. The mixture was diluted with dichloromethane (25 mL) and was washed with H2O (1×20 mL), brine, and was dried (Na2SO4) and evaporated. The residue was purified by preparative HPLC using a gradient elution from 5% to 30% acetonitrile in water to obtain 53 mg (58%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 8.57 (s, 1 H), 7.99-7.91 (m, 3 H), 7.86-7.79 (m, 1 H), 7.69-7.63 (m, 1 H), 7.39-7.26 (m, 5 H), 7.23-7.17 (m, 1 H), 7.06-6.98 (m, 3 H), 5.66 (s, 2 H), 3.27-3.14 (m, 4 H), 2.47-2.40 (m, 4 H), 2.22 (s, 3 H); ES-MS m/z 515.32 [M+H]+, HPLC RT (min) 2.36.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-piperazin-1-ylphenyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.18 mmol, 89 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)N2CCNCC2 | C30H28N8
reactant | formaldehyde | 1.06 mmol, 80 μL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 0.53 mmol, 113 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | 5-(2-benzyl-2H-indazol-6-yl)-7-[4-(4-methylpiperazin-1-yl)phenyl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 53 mg, 58% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2=CC=C(C=C2)N2CCN(CC2)C | C31H30N8
